* Test DC mode support for the DC_CONT version of
* DERIV-AT and DERIV-WHEN measures.
*
* See SON Bugs 1274, 1304 and 1313 for more details
*****************************************************
.DC V1 1 10 1
.PRINT DC V(1) V(2) V(3)

V1 1 0 1
R1 1 0 1

B2 2 0 V={(V(1)-2.5)*(V(1)-2.5)*(V(1)-7.5)*(V(1)-7.5)/4}
R2 2 3 1
R3 3 0 1

******************************************************
* test CROSS qualifier and DERIV-WHEN measures.
* Non-continuous version should return first crossing.
* Continuous version should return all crossings.
.MEASURE DC derivCrossTest1 DERIV V(2) WHEN V(2)=5
.MEASURE DC_CONT derivCrossContTest1 derivative V(2) WHEN V(2)=5

* Non-continuous version should return first crossing.
* Continuous version should return all crossings, starting
* with the first one.
.MEASURE DC derivCrossTest2 DERIV V(2) WHEN V(2)=5 CROSS=1
.MEASURE DC_CONT derivCrossContTest2 DERIV V(2) WHEN V(2)=5 CROSS=1

* Non-continuous version should return second crossing.
* Continuous version should return all crossings, starting
* with the second one.
.MEASURE DC derivCrossTest3 DERIV V(2) WHEN V(2)=5 CROSS=2
.MEASURE DC_CONT derivCrossContTest3 DERIV V(2) WHEN V(2)=5 CROSS=2

* These should both return the last crossing
.MEASURE DC derivCrossTest4 DERIV V(2) WHEN V(2)=5 CROSS=LAST
.MEASURE DC_CONT derivCrossContTest4 DERIV V(2) WHEN V(2)=5 CROSS=LAST

******************************************************
* DERIV-AT measures
* These should give the same answer
.MEASURE DC atTest DERIV V(2) AT=2
.MEASURE DC_CONT atContTest DERIV V(2) AT=2

*****************************************************
* test RISE and FAll qualifiers for DERIV-WHEN
.MEASURE DC_CONT derivRiseContTest1 DERIV V(2) WHEN V(2)=5 RISE=1
.MEASURE DC_CONT derivRiseContTest2 DERIV V(2) WHEN V(2)=5 RISE=2
.MEASURE DC_CONT derivRiseContTest3 DERIV V(2) WHEN V(2)=5 RISE=LAST

.MEASURE DC_CONT derivFallContTest1 DERIV V(2) WHEN V(2)=5 FALL=1
.MEASURE DC_CONT derivFallContTest2 DERIV V(2) WHEN V(2)=5 FALL=2
.MEASURE DC_CONT derivFallContTest3 DERIV V(2) WHEN V(2)=5 FALL=LAST

************************************************************************
* Use of FROM-TO.  Only the rise, fall or cross values within the
* FROM-TO windows should be returned, starting at the requested value.
* For CROSS=LAST, only the last one within the FROM-TO window is returned
.MEASURE DC_CONT derivCross1ContFrom25 DERIV V(2) WHEN V(2)=5 CROSS=1 FROM=2.5
.MEASURE DC_CONT derivCross2ContFrom25 DERIV V(2) WHEN V(2)=5 CROSS=2 FROM=2.5
.MEASURE DC_CONT derivCrossContTo75 DERIV V(2) WHEN V(2)=5 CROSS=1 TO=7.5
.MEASURE DC_CONT derivRiseContFrom5 DERIV V(2) WHEN V(2)=5 RISE=1 FROM=5
.MEASURE DC_CONT derivFallContTo5 DERIV V(2) WHEN V(2)=5 FALL=1 TO=5
.MEASURE DC_CONT derivCrossContToLast DERIV V(2) WHEN V(2)=5 CROSS=LAST TO=7.5

*********************************************************
* Test negative values
.MEASURE DC derivCrossNeg2 DERIV V(2) WHEN V(2)=5 CROSS=-2
.MEASURE DC derivCrossNeg3 DERIV V(2) WHEN V(2)=5 CROSS=-3
.MEASURE DC derivCrossNeg5 DERIV V(2) WHEN V(2)=5 CROSS=-5
.MEASURE DC_CONT derivCrossContNeg1 DERIV V(2) WHEN V(2)=5 CROSS=-1
.MEASURE DC_CONT derivCrossContNeg2 DERIV V(2) WHEN V(2)=5 CROSS=-2
.MEASURE DC_CONT derivCrossContNeg3 DERIV V(2) WHEN V(2)=5 CROSS=-3
.MEASURE DC_CONT derivCrossContNeg4 DERIV V(2) WHEN V(2)=5 CROSS=-4
.MEASURE DC_CONT derivCrossContNeg5 DERIV V(2) WHEN V(2)=5 CROSS=-5

.MEASURE DC derivRiseNeg2 DERIV V(2) WHEN V(2)=5 RISE=-2
.MEASURE DC derivRiseNeg3 DERIV V(2) WHEN V(2)=5 RISE=-3
.MEASURE DC_CONT derivRiseContNeg1 DERIV V(2) WHEN V(2)=5 RISE=-1
.MEASURE DC_CONT derivRiseContNeg2 DERIV V(2) WHEN V(2)=5 RISE=-2
.MEASURE DC_CONT derivRiseContNeg3 DERIV V(2) WHEN V(2)=5 RISE=-3

.MEASURE DC derivFallNeg2 DERIV V(2) WHEN V(2)=5 FALL=-2
.MEASURE DC derivFallNeg3 DERIV V(2) WHEN V(2)=5 FALL=-3
.MEASURE DC_CONT derivFallContNeg1 DERIV V(2) WHEN V(2)=5 FALL=-1
.MEASURE DC_CONT derivFallContNeg2 DERIV V(2) WHEN V(2)=5 FALL=-2
.MEASURE DC_CONT derivFallContNeg3 DERIV V(2) WHEN V(2)=5 FALL=-3

*************************************************
* test failed measures
.MEASURE DC_CONT derivCrossContFail1 DERIV V(2) WHEN V(2)=100
.MEASURE DC_CONT atContFail DERIV V(2) at=20
.MEASURE DC_CONT derivCrossContFail2 DERIV V(2) WHEN V(2)=5 CROSS=5
.MEASURE DC_CONT derivRiseContFail DERIV V(2) WHEN V(2)=5 RISE=3
.MEASURE DC_CONT derivFallContFail DERIV V(2) WHEN V(2)=5 FALL=3

.END
